US08802864B2
f) 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-propanoyl-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
Under nitrogen, a mixture of 4-[4-(1-benzofuran-5-yl)phenyl]-5-[(3S)-3-pyrrolidinylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride (116 mg, 0.292 mmol) and N,N-diisopropylethylamine (0.15 mL, 0.88 mmol) in dichloromethane (1.3 mL) was stirred at room temperature for 2 min. The mixture was cooled to 0° C. and treated with propionyl chloride (0.026 mL, 0.292 mmol) dropwise by syringe. The mixture became a dark brown solution and the reaction was stirred at 0° C. for 90 min. The reaction was quenched with water (2 mL) and diluted with ethyl acetate (20 mL). The mixture was transferred to a separatory funnel, water (10 mL) was added and the layers were separated. The pH of the aqueous layer was tested by pH paper and found to be pH˜5-6. The aqueous layer was extracted with ethyl acetate (10 mL). The organic layers were combined, dried over magnesium sulfate and concentrated in vacuo to give a tan foamy solid. Purification of the residue by silica gel chromatography (Analogix IF280, SF10-4 g, 0-10% MeOH/EtOAc, 30 min) provided the title product as an ivory solid (74 mg, 61%). MS(ES)+ m/e 417.2 [M+H]+.

reactant | 4-[4-(1-benzofuran-5-yl)phenyl]-5-[(3S)-3-pyrrolidinylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride | 0.292 mmol, 116 mg | Cl.O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CNCC2)=O
reactant | N,N-diisopropylethylamine | 0.88 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propionyl chloride | 0.292 mmol, 0.026 mL | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 1.3 mL | ClCCl | CH2Cl2
product | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-propanoyl-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 74 mg, 61% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(CC)=O)=O | C24H24N4O3
